US07381749B2
Pentanethioic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester
Thioacetic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester (SI-4) (0.5 g, 1.15 mmol) was dissolved in anhydrous DMF (5 ml). Lithium hydroxide (28 mg, 1.15 mmol) was added and the solution was sonicated until homogeneous and heated to 90° C. for 4 hours. The solution was allowed to cool to room temperature and valeryl chloride (150 mg, 1.27 mmol) was added and the mixture stirred for 16 hours. The solution was partioned between 20 ml each water and EtOAc. The organic layer was washed with water, then brine and dried over Na2SO4. The solution was then filtered, stripped of solevent and the product purified by flash chromatography (100% DCM). The solvent was evaporated to afford 107 mg (0.22 mmol, 19%) product as a clear oil. 1H-NMR: (400 MHz, DMSO): 8.07 (d, 2H), 7.60 (d, 2H), 7.40 (d, 2H), 7.25 (d, 2H), 2.40 (s, 2H), 2.10 (t, 2H), 1.42 (t, 2H) 1.11 (t,2H), 0.09 (t, 3H); LC-MS (ES+): 476 [M]+ m/e.

reactant | Thioacetic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester | 1.15 mmol, 0.5 g | O=C(CSC(C)=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C17H14F3NO5S2
reactant | Lithium hydroxide | 1.15 mmol, 28 mg | [OH-].[Li+]
reactant | valeryl chloride | 1.27 mmol, 150 mg | C(CCCC)(=O)Cl | C5H9ClO
reactant | water | 20 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Pentanethioic acid S-{2-oxo-2-[4-(4-trifluoromethoxy-benzenesulfonylamino)-phenyl]-ethyl}ester | 0.22 mmol, 107 mg, 19% | O=C(CSC(CCCC)=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C20H20F3NO5S2
